US07709509B2
To a solution of 100 mg of 3-{2-bromo-4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one in 4 ml of pyridine was added 29 mg of copper cyanide. The resulting mixture was stirred under microwave heating at 21° C. for 10 minutes, then concentrated under reduced pressure. The residue was taken into ethyl acetate, washed with a pH 9 aqueous solution of ammonia, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by preparative thin layer chromatography on silica gel (dichloromethane 95/methanol 5) and precipitated from ethyl acetate/diisopropyl ether/pentane to give 9.5 mg of 5-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzonitrile

reactant | 3-{2-bromo-4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 100 mg | BrC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC)C1=NOC(N1)=O | C23H19BrF3N3O3S
reactant | copper cyanide | 29 mg | [Cu](C#N)C#N
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 5-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzonitrile | 9.5 mg | C(CCC)C=1N=C(SC1COC=1C=CC(=C(C#N)C1)C1=NOC(N1)=O)C1=CC=C(C=C1)C(F)(F)F | C24H19F3N4O3S
